US09403810B2
Step 1: Spiro[4.5]dec-6-en-8-one
To a solution of cyclopentanecarbaldehyde (Aldrich) (0.82 g, 8.36 mmol) in dry toluene (10 mL), methyl vinyl ketone (Alfa Aesar) (0.684 mL, 8.36 mmol) was added followed by a catalytic amount of concentrated H2SO4 (0.045 mL, 0.836 mmol). The mixture was heated at 45° C. for 1.5 hours, then refluxed for 1 hour using a Dean-Stark trap. The reaction mixture was cooled to room temperature and further methyl vinyl ketone (Alfa Aesar) (0.684 mL, 8.36 mmol) was added. The reaction mixture was heated at reflux for 1 hour, allowed to cool to room temperature and treated with an aqueous 1M NaHCO3 (30 mL) solution. The aqueous was extracted with toluene and the combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography eluting with 0-20% EtOAc in iso-hexane afforded the title compound;

reactant | cyclopentanecarbaldehyde | 8.36 mmol, 0.82 g | C1(CCCC1)C=O | C6H10O
reactant | methyl vinyl ketone | 8.36 mmol, 0.684 mL | C(=C)C(=O)C | C4H6O
reactant | H2SO4 | 0.836 mmol, 0.045 mL | OS(=O)(=O)O | H2O4S
reactant | methyl vinyl ketone | 8.36 mmol, 0.684 mL | C(=C)C(=O)C | C4H6O
reactant | NaHCO3 | 1M, 30 mL | C(=O)(O)[O-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Spiro[4.5]dec-6-en-8-one | C1CCCC12C=CC(CC2)=O | C10H14O
